US05393758
A mixture of 0.6 g (2.2 mmol) of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 0.25 g (4.4 mmol) of azetidine and 1 ml of triethylamine in 8 ml of pyridine is heated to 110° C. in a closed vessel for 2 hours. The mixture is allowed to cool and is filtered and the product is washed with water, ethanol and ether. 0.275 g of 1-cyclopropyl-6-fluoro-7-(1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, melting point 291°-4° C., is thereby obtained.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 2.2 mmol, 0.6 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | azetidine | 4.4 mmol, 0.25 g | N1CCC1 | C3H7N
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-6-fluoro-7-(1-azetidinyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 0.275 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCC1)F)=O)C(=O)O | C16H15FN2O3
